US08486933B2
N-(diphenylmethylene)-2-phenylquinolin-6-amine
In a 20 mL microwave tube was charged cesium carbonate (0.440 mL, 5.50 mmol), palladium(II)acetate (0.018 g, 0.079 mmol), and 9,9-dimethyl-4,5-bis(diphenylphosphino)xanthene (0.068 g, 0.118 mmol) in dioxane (6.0 mL) to give a yellow suspension. The mixture was stirred for 10 minutes and then triethylamine (0.016 mL, 0.118 mmol) was added. The solution was stirred for another 10 minutes; and then 6-bromo-2-phenylquinoline (1.1168 g, 3.93 mmol) and benzophenone imine (0.791 mL, 4.72 mmol) were added as a solution in dioxane (6.0 mL). The mixture was heated at 100° C. overnight. The mixture was cooled to room temperature and dilute with ethyl acetate. The organics were washed 2×100 mL with water, dried over magnesium sulfate, filtered, and concentrated onto silica gel. The reaction was purified by flash chromatography using an Argonaut Flashmaster Solo, 20 g column (10% ethyl acetate:hexanes for 30 min) to afford a yellow oil. (ESI(+)) m/e 385.0 (M+H)+.

reactant | cesium carbonate | 5.50 mmol, 0.440 mL | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | 9,9-dimethyl-4,5-bis(diphenylphosphino)xanthene | 0.118 mmol, 0.068 g | CC1(C2=CC=CC(=C2OC=2C(=CC=CC12)P(C1=CC=CC=C1)C1=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1)C | C39H32OP2
reactant | triethylamine | 0.118 mmol, 0.016 mL | C(C)N(CC)CC | C6H15N
reactant | 6-bromo-2-phenylquinoline | 3.93 mmol, 1.1168 g | BrC=1C=C2C=CC(=NC2=CC1)C1=CC=CC=C1 | C15H10BrN
reactant | benzophenone imine | 4.72 mmol, 0.791 mL | C(C1=CC=CC=C1)(C1=CC=CC=C1)=N | C13H11N
solvent | dioxane | 6.0 mL | O1CCOCC1 | C4H8O2
solvent | dioxane | 6.0 mL | O1CCOCC1 | C4H8O2
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
catalyst | palladium(II)acetate | 0.079 mmol, 0.018 g | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
product | N-(diphenylmethylene)-2-phenylquinolin-6-amine | C1(=CC=CC=C1)C(=NC=1C=C2C=CC(=NC2=CC1)C1=CC=CC=C1)C1=CC=CC=C1 | C28H20N2
